US08183246B2
3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol
Add 4.8 ml of 12.5 N sodium hydroxide solution to a mixture of 2.68 g (29.70 mmol) (2R,3S)-butane-2,3-diol in 45 ml toluene, 15 ml 1,2-dimethoxyethane and 15 ml water at 70° C. After adding 0.20 g (0.60 mmol) tetra-n-butylammonium hydrogensulphate and 2.00 g (5.94 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine, stir the reaction mixture for 17 h at 70° C. After cooling to room temperature, adjust to pH 7 with concentrated hydrochloric acid. Extract three times with 100 ml dichloromethane each time. Wash the combined organic extracts with satd. sodium chloride solution, dry over sodium sulphate, filter, and concentrate by vacuum evaporation. Purify the raw product by preparative RP-HPLC (gradient: water/acetonitrile). 1.26 g (54% of theor.) of the desired product is obtained as (R,S/S,R) racemate.

reactant | sodium hydroxide | 12.5 N, 4.8 ml | [OH-].[Na+]
reactant | (2R,3S)-butane-2,3-diol | 29.70 mmol, 2.68 g | C[C@H]([C@H](C)O)O | C4H10O2
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 5.94 mmol, 2.00 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | water | 15 ml | O | H2O
catalyst | tetra-n-butylammonium hydrogensulphate | 0.60 mmol, 0.20 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OC(C(C)O)C)C2=CC=CC=C2 | C23H22N2O4
